US09233979B2
A mixture of (4,6-dichloro-3-cyanopyridin-2-yl)methyl acetate (366.3 mg, 1.495 mmol), (R)-1-(1-phenylethyl)urea (443 mg, 2.70 mmol) and Xantphos G2 precatalyst (130 mg, 0.146 mmol) in THF (2 ml) was sealed, sparged with argon, charged with triethylamine (0.73 ml, 5.24 mmol) and heated to 50° C. for 17 hr. The mixture was filtered through celite, eluted with EtOAc, concentrated in vacuo and purified via flash chromatography (25-100% Et2O/Hex) to provide (R)-(4-chloro-3-cyano-6-(3-(1-phenylethyl)ureido)pyridin-2-yl)methyl acetate. MS ESI calc'd. For C18H18ClN4O3 [M+H]+ 373. found 373.

reactant | (4,6-dichloro-3-cyanopyridin-2-yl)methyl acetate | 1.495 mmol, 366.3 mg | C(C)(=O)OCC1=NC(=CC(=C1C#N)Cl)Cl | C9H6Cl2N2O2
reactant | (R)-1-(1-phenylethyl)urea | 2.70 mmol, 443 mg | C1(=CC=CC=C1)[C@@H](C)NC(=O)N | C9H12N2O
reactant | Xantphos | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | triethylamine | 5.24 mmol, 0.73 ml | C(C)N(CC)CC | C6H15N
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | (R)-(4-chloro-3-cyano-6-(3-(1-phenylethyl)ureido)pyridin-2-yl)methyl acetate | C(C)(=O)OCC1=NC(=CC(=C1C#N)Cl)NC(=O)N[C@H](C)C1=CC=CC=C1 | C18H17ClN4O3
